US07947683B2
3-(1,1-dimethyl-3-buten-1-yl)-4-methyl-5-phenyl-4H-1,2,4-triazole
To a solution of 2,2-dimethyl-4-pentenohydrazide (360 mg) in NMP(2.5 ml) were added K2CO3 (348 mg) and N,N′-dimethylbenzenecarboximidamide hydrochloride (463 mmol). The solution was heated to the microwave at 240° C. for 30 minutes. Volatiles were evaporated in vacuo, the crude dissolved in DCM, washed with water and dried over Na2SO4. After filtration and concentration to dryness in vacuo, the crude was purified by column chromatography (DCM:MeOH=98 to 2) to give 196 mg of the title compound. MS (m/z): 242[MH]+.

reactant | 2,2-dimethyl-4-pentenohydrazide | 360 mg | CC(C(=O)NN)(CC=C)C | C7H14N2O
reactant | K2CO3 | 348 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | N,N′-dimethylbenzenecarboximidamide hydrochloride | 463 mmol | Cl.CNC(=NC)C1=CC=CC=C1
solvent | NMP | 2.5 ml | CN1CCCC1=O | C5H9NO
product | 3-(1,1-dimethyl-3-buten-1-yl)-4-methyl-5-phenyl-4H-1,2,4-triazole | 196 mg | CC(CC=C)(C)C1=NN=C(N1C)C1=CC=CC=C1 | C15H19N3
